US07538102B2
To a stirring solution of 13-cyclohexyl-10-((cyclopropylsulfonyl)carbamoyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-6-carboxylic acid (33 mg, 0.062 mmol) and 4-(3-(1,4-diazepan-1-yl)propyl)morpholine (36 mg, 0.158 mmol) in DMF (0.5 ml) and TEA (50 μl, 0.359 mmol) was added HATU (35 mg, 0.092 mmol). The reaction mixture was stirred at room temperature under nitrogen for 4 h. The crude reaction mixture was diluted with MeOH (˜1 mL), filtered and purified by preparative HPLC (H2O/CH3CN with 10 mM NH4OAc) to yield 13-cyclohexyl-N-(cyclopropylsulfonyl)-3-methoxy-6-((4-(3-(4-morpholinyl)propyl)-1,4-diazepan-1-yl)carbonyl)-7H-indolo[2,1-a][2]benzazepine-10-carboxamide (35.1 mg, 0.045 mmol, 72.6% yield) as a yellow solid. 1HNMR (300 MHz, CD3OD) δ 0.91-2.34 (m, 20H), 2.49-3.49 (m, 15H), 3.81-3.96 (m, 7H), 4.03-4.23 (m, 1H), 4.30-4.48 (m, 1H), 5.05-5.23 (m, 1H), 6.90 (s, 1H) 7.04 (d, J=2.6 Hz, 1H), 7.13 (dd, J=8.4, 2.6 Hz, 1H), 7.53 (d, J=8.4 Hz, 1H), 7.42-7.88 (m, 2H), 8.24 (s, 1H). LCMS: m/e 744 (M+H)+, ret time 2.88 min, column B, 4 minute gradient.

reactant | 13-cyclohexyl-10-((cyclopropylsulfonyl)carbamoyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-6-carboxylic acid | 0.062 mmol, 33 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C(=O)O)C=C(C=C1)OC)C(NS(=O)(=O)C1CC1)=O | C29H30N2O6S
reactant | 4-(3-(1,4-diazepan-1-yl)propyl)morpholine | 0.158 mmol, 36 mg | N1(CCNCCC1)CCCN1CCOCC1 | C12H25N3O
reactant | HATU | 0.092 mmol, 35 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | MeOH | ˜1 mL | CO | CH4O
product | 13-cyclohexyl-N-(cyclopropylsulfonyl)-3-methoxy-6-((4-(3-(4-morpholinyl)propyl)-1,4-diazepan-1-yl)carbonyl)-7H-indolo[2,1-a][2]benzazepine-10-carboxamide | 0.045 mmol, 35.1 mg, 72.6% yield | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C(=O)N2CCN(CCC2)CCCN2CCOCC2)C=C(C=C1)OC)C(=O)NS(=O)(=O)C1CC1 | C41H53N5O6S
